US07855194B2
(5-Phenyl-pyrimidin-2-yl)-piperidin-4-yl-amine dihydrochloride
To a solution of 4-(5-phenyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.06 g, 3.00 mmol) in ethanol (10 mL) was added 4 M HCl in dioxane (10 mL) and the reaction mixture stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 255.6 [M+H]+.

reactant | 4-(5-phenyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.00 mmol, 1.06 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)C1=CC=CC=C1 | C20H26N4O2
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (5-Phenyl-pyrimidin-2-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C=1C=NC(=NC1)NC1CCNCC1 | InChI=1S/C15H18N4.2ClH/c1-2-4-12(5-3-1)13-10-17-15(18-11-13)19-14-6-8-16-9-7-14;;/h1-5,10-11,14,16H,6-9H2,(H,17,18,19);2*1H
